US06368608B1
(b) Preparation of 2-bromo-3-methoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene:
720 mg (24 mmol) of sodium hydride (80% in oil) and 20 ml of DMF were introduced into a three-necked flask, a solution of 5.7 g (20 mmol) of 2-bromo-3-hydroxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene in 75 ml of DMF was added dropwise and stirring was carried out until gas evolution had ceased. 1.5 ml (24 mmol) of iodomethane was then added and stirring was carried out at room temperature for two hours. The reaction mixture was poured into water and extracted with ethyl ether. The organic phase was separated by settling, dried over magnesium sulfate and evaporated. The residue obtained was triturated in heptane and filtered. 5.5 g (93%) of 2-bromo-3-methoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene, with a melting point of 70°-71° C., were recovered.

reactant | sodium hydride | 24 mmol, 720 mg | [H-].[Na+]
reactant | 2-bromo-3-hydroxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene | 20 mmol, 5.7 g | BrC1=CC=2C(CCC(C2C=C1O)(C)C)(C)C | C14H19BrO
reactant | iodomethane | 24 mmol, 1.5 ml | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-bromo-3-methoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene | BrC1=CC=2C(CCC(C2C=C1OC)(C)C)(C)C | C15H21BrO
